US08957074B2
Following general amide formation method 1, 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid with 5 equiv LiCl was combined with (1R,5S)-tert-butyl 9-hydroxy-3,7-diazabicyclo[3.3.1]nonane-3-carboxylate which gave (1R,5S)-tert-butyl 7-(6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinoyl)-9-hydroxy-3,7-diazabicyclo[3.3.1]nonane-3-carboxylate (158 mg) in 77% yield. 1H NMR (400 MHz, CDCl3) δ ppm 8.76 (s, 1H), 8.56 (d, J=8.59 Hz, 1H), 8.41 (s, 1H), 8.28 (br s, 1H), 7.92 (d, J=7.07 Hz, 1H), 6.47 (s, 1H), 4.80 (m, 1H), 4.67-4.29 (m, 2H), 4.14-3.68 (m, 3H), 3.48 (m, 1H), 3.24-2.99 (m, 7H), 2.60 (m, 2H), 2.26-1.54 (m, 10H), 1.49 (s, 9H); LCMS m/z 619.0 (M+H)+.

reactant | 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)O)C=C2)C(N(C)C)=O | C20H22N6O3
reactant | LiCl | 5 equiv | [Li+].[Cl-]
reactant | (1R,5S)-tert-butyl 9-hydroxy-3,7-diazabicyclo[3.3.1]nonane-3-carboxylate | OC1[C@H]2CN(C[C@@H]1CNC2)C(=O)OC(C)(C)C | C12H22N2O3
product | (1R,5S)-tert-butyl 7-(6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinoyl)-9-hydroxy-3,7-diazabicyclo[3.3.1]nonane-3-carboxylate | 158 mg, 77% yield | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)N1C[C@H]3CN(C[C@@H](C1)C3O)C(=O)OC(C)(C)C)C=C2)C(N(C)C)=O | C32H42N8O5
